US08278442B2
Preparation 78: 2-Amino-5,6-difluoroindan-1-one
5,6-Difluoroindan-1,2-dione 2-oxime (Preparation 77) (2.70 g, 13.7 mmol) was dissolved in acetic acid (70 mL) and 10% Palladium on carbon (717 mg) added. The reaction mixture was hydrogenated at 50 psi for 72 h, filtered through a pad of celite and washed with chloroform (100 mL). The resulting precipitate was collected by filtration and air dried to give the title compound: δH(DMSO-d6) 3.11 (1H, dd), 3.56 (1H, dd), 4.34 (1H, dd), 7.74-7.94 (2H, m), 8.75 (2H, bs).

reactant | 5,6-Difluoroindan-1,2-dione 2-oxime | 13.7 mmol, 2.70 g | FC=1C=C2CC(C(C2=CC1F)=O)=NO | C9H5F2NO2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | 717 mg | [Pd] | Pd
product | 2-Amino-5,6-difluoroindan-1-one | NC1C(C2=CC(=C(C=C2C1)F)F)=O | C9H7F2NO
